US07750186B2
Step 4: 3′,4′-dichloro-5-fluorobiphenyl-2-amine
0.08 mol of an approximately 45% aqueous potassium hydroxide solution is added to a suspension of 6.3 g (0.02 mol, purity: 95%) N-(3′,4′-dichloro-5-fluorobiphenyl-2-yl)acetamide and 12 ml 2-methoxyethanol. This is heated to 100° C., stirred for 4 hours, cooled and the solvent is distilled off in a vacuum. The residue is mixed with ice water and extracted several times with toluene.

reactant | potassium hydroxide | [OH-].[K+]
reactant | N-(3′,4′-dichloro-5-fluorobiphenyl-2-yl)acetamide | 0.02 mol, 6.3 g | ClC=1C=C(C=CC1Cl)C1=C(C=CC(=C1)F)NC(C)=O | C14H10Cl2FNO
solvent | 2-methoxyethanol | 12 ml | COCCO | C3H8O2
product | 3′,4′-dichloro-5-fluorobiphenyl-2-amine | ClC=1C=C(C=CC1Cl)C=1C(=CC=C(C1)F)N | C12H8Cl2FN
